US07465731B2
A solution of tert-butyl (3R)-3-[(5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)amino]-1-pyrrolidinecarboxylate (450 mg) and pyridinium p-toluenesulfonate (261 mg) in EtOH (10 ml) was stirred at 55-60° C. for 9 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved in a mixture of AcOEt and H2O and adjusted to was adjusted to PH10 with aq.K2CO3 solution. The aqueous solution was adjusted to PH6.5 with aq.HCl solution and extracted with AcOEt. The extract was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was washed with IPE to give tert-butyl (3R)-3-({5-[(1E)-3-(hydroxyamino)-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-pyrrolidinecarboxylate (118 mg).

reactant | tert-butyl (3R)-3-[(5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridinyl)amino]-1-pyrrolidinecarboxylate | 450 mg | O=C(/C=C/C=1C=CC(=NC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)NOC1OCCCC1 | C22H32N4O5
reactant | pyridinium p-toluenesulfonate | 261 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | EtOH | 10 ml | CCO | C2H6O
product | tert-butyl (3R)-3-({5-[(1E)-3-(hydroxyamino)-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-pyrrolidinecarboxylate | 118 mg | ONC(/C=C/C=1C=CC(=NC1)N[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C17H24N4O4
